US05079247
N-[1-(Phenylmethyl)benz[cd]indol-2 (1H)-ylidene]-1H-imidazole-1-propanamine
A mixture of 3.0 g 1-(phenylmethyl)benz[cd]indole-2(1H)-thione (Cc), 1.34 g of 1H-imidazole-1-propaneamine, 10.0 ml ethyl alcohol, and 3.5 g of mercuric acetate is reacted as described in Example 3, giving 2.6 g of the desired product, mp. 90°-93° C.

reactant | 1-(phenylmethyl)benz[cd]indole-2(1H)-thione | 3.0 g | C1(=CC=CC=C1)CN1C(C2=C3C(C=CC=C13)=CC=C2)=S | C18H13NS
reactant | 1H-imidazole-1-propaneamine | 1.34 g | N1(C=NC=C1)CCCN | C6H11N3
solvent | ethyl alcohol | 10.0 ml | C(C)O | C2H6O
product | N-[1-(Phenylmethyl)benz[cd]indol-2 (1H)-ylidene]-1H-imidazole-1-propanamine | 2.6 g | C1(=CC=CC=C1)CN1C(C2=C3C(C=CC=C13)=CC=C2)=NCCCN2C=NC=C2 | C24H22N4
